US07214802B2
To a solution of 800 mg (3.43 mmol) of 5-bromo-1-methyl-1H-imidazole-2-carboxylic acid ethyl ester in Et3N (10 mL) and THF (10 mL) was added 33 mg (0.17 mmol) of CuI and 120 mg (0.10 mmol) of Pd(PPh3)4 . Trimethylsilylacetylene (0.48 mL, 3.4 mmol) was then added and the reaction was heated at 70° C. under N2. After 12 h, the mixture was cooled and filtered though a pad of celite, and then concentrated and chromatographed (0–50% EtOAc in hexanes) to give 1-methyl-5-trimethylsilanylethynyl-1H-imidazole-2-carboxylic acid ethyl ester as a brown oil (205 mg).

reactant | 5-bromo-1-methyl-1H-imidazole-2-carboxylic acid ethyl ester | 3.43 mmol, 800 mg | C(C)OC(=O)C=1N(C(=CN1)Br)C | C7H9BrN2O2
reactant | Trimethylsilylacetylene | 3.4 mmol, 0.48 mL | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.17 mmol, 33 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.10 mmol, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-methyl-5-trimethylsilanylethynyl-1H-imidazole-2-carboxylic acid ethyl ester | 205 mg | C(C)OC(=O)C=1N(C(=CN1)C#C[Si](C)(C)C)C | C12H18N2O2Si
